US08975254B2
b) (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-3-(4-methylpiperazine-1-carbonyl)-1H-pyrazole-5-carboxamide
1-Methylpiperazine (126 mg; 1.25 mmol) and (S)-5-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-ylcarbamoyl)-1H-pyrazole-3-carboxylic acid (50 mg; 1.25 mmol), HOBt (254 mg; 1.88 mmol), DIPEA (0.33 ml; 1.88 mmol) and EDCl (361 mg; 1.88 mmol) were dissolved in 15 ml of DCM and stirred at RT overnight. 50 ml of DCM was added and washed with 3×15 ml of water. Combined water phases were washed with 2×20 mol of DCM, all organic phases were combined and dried over Na2SO4. Crude product was purified by chromatography (CombiFlash, silica column, eluent: 0-20% MeOH/DCM) to obtain 75 mg (12%) of the title compound. 1H-NMR (400 MHz; d1-CDCl3): δ 3.90-3.96 (m, 2H), 4.41 (t, 2H), 6.51-6.53 (m, 1H), 6.61 (d, 1H), 6.66 (d, 1H), 6.95 (s, 1H), 7.48-7.50 (m, 2H), 7.61 (broad s, 1H), 7.68 (d, 1H), 7.76-7.79 (m, 1H), 8.11 (s, 1H), 10.45 (broad s, 1H).

reactant | 1-Methylpiperazine | 1.25 mmol, 126 mg | CN1CCNCC1 | C5H12N2
reactant | (S)-5-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-ylcarbamoyl)-1H-pyrazole-3-carboxylic acid | 1.25 mmol, 50 mg | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C1=CC(=NN1)C(=O)O | C18H15ClN6O3
reactant | HOBt | 1.88 mmol, 254 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 1.88 mmol, 0.33 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCl | 1.88 mmol, 361 mg | CCN=C=NCCCN(C)C.Cl
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mol | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-3-(4-methylpiperazine-1-carbonyl)-1H-pyrazole-5-carboxamide | 75 mg, 12% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C1=CC(=NN1)C(=O)N1CCN(CC1)C | C23H25ClN8O2
